Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / aspirin
 
Attending: ___.
 
Chief Complaint:
lightheadedness, dizziness, headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ with PMHx of meningioma (dx ___
presents with dizziness and right temporal, throbbing headache
that started ___ days ago and is worsening since her visit to
urgent care two days ago.  Of note, she recently began treatment
for urinary tract infection with ciprofloxacin proximally 3 days
ago.  Also, she reportedly had a hysteroscopy and biopsy
approximately 5 days ago.  She reports multiple complaints for
the past 2 days.  She reports several days of chills, nausea,
vomiting, for which she originally presented to urgent care and
was given ciprofloxacin for UTI.  She reports ongoing joint
pains, overall feeling of weakness, and a throbbing pulsating
headache.  She was reportedly previously independent.  Her 
review
of systems otherwise positive for arthralgias, weight loss,
nausea and vomiting enlisting above.

In the ED, initial vital signs were 97.3 67 137/83 16 100% RA.
She received IV metoclopramide 10 mg, IV diphenhydramine 25 mg,
and normal saline.
Physical exam notable for found lower extremity weakness, unable
to stand even with 2 assistants.
Labs notable for normal CBC, normal BMP, normal LFTs, and a
calcium of 10.7.  UA with small leukoesterase otherwise
unremarkable.  Urine toxicology is negative.
Neurology evaluated the patient in the emergency room.  They
noted that the majority of her neurologic symptoms are
progressive and nonspecific.  There is no observable focal
deficit other than her becoming so uncomfortable upon sitting
that gait testing was not performed.  Blood pressure was stable
at this time.  They recommended vascular imaging with CT head to
rule out vertebrobasilar insufficiency.

Upon review of outpatient records (H VMA), patient was seen on
___ for nausea and dizziness which started after 
undergoing
her hysteroscopy.  She was noted to have a leukocytosis to 11.7
___s a positive UA.  At that time she was started on
ciprofloxacin.

She reports that the urgent care provider advised her to avoid
taking calcium supplementation with ciprofloxacin. She
interpreted that to mean that she should avoid calcium entirely.
As a result she has not eaten solid food since ___. She
attributes some of her weakness to this.
 
Past Medical History:
- GERD
- Hypertension
- Urinary incontinence
- Sleep apnea
- Meningioma
- Osteoporosis
- Chronic constipation
- Dysuria
- Idiopathic hypercalciuria
- Cystocele
- Cervical disc disease
 
Social History:
___
Family History:
Father with diabetes.  Mother with prior MI.
 
Physical Exam:
Admission Physical Exam:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, strength full in b/l upper and lower extremities.
Able to stand when supporting upper body, takes slow, halting
steps. No foot drop or truncal ataxia. No nystagmus
PSYCH: pleasant, appropriate affect

Discharge Physical Exam:
========================
GENERAL: Alert and in no apparent distress sitting up with lower 
legs hanging off side of bed
EYES: Anicteric, pupils equally round, + annulis senilis, +light 
spots in right pupil (hx of eye injury as a child)
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion; Mucous membranes moist; 
+right tonsillar enlargement without erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent but slow, no nystagmus, moving arms and legs 
spontaneously and purposefully, follows commands
PSYCH: quiet speech, flat affect, + psychomotor slowing
 
Pertinent Results:
Admission Labs:
===============
___ 09:00PM BLOOD WBC-5.7 RBC-3.86* Hgb-11.4 Hct-35.6 
MCV-92 MCH-29.5 MCHC-32.0 RDW-12.9 RDWSD-42.9 Plt ___
___ 09:00PM BLOOD Neuts-57.7 ___ Monos-9.4 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-3.30 AbsLymp-1.72 AbsMono-0.54 
AbsEos-0.10 AbsBaso-0.03
___ 09:00PM BLOOD ___ PTT-27.3 ___
___ 09:00PM BLOOD Glucose-102* UreaN-11 Creat-0.7 Na-143 
K-3.9 Cl-103 HCO3-26 AnGap-14
___ 09:00PM BLOOD ALT-9 AST-14 CK(CPK)-33 AlkPhos-56 
TotBili-0.3
___ 09:00PM BLOOD cTropnT-<0.01
___ 09:00PM BLOOD Albumin-4.3 Calcium-10.7* Phos-2.8 Mg-2.1
___ 09:00PM BLOOD TSH-1.5
___ 09:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Micro:
=======
___ 9:30 pm - URINE CULTURE (Final ___: NO GROWTH. 

Imaging:
========
___ CXR:
No pneumonia.

___ CTA Head and Neck:
CT HEAD WITHOUT CONTRAST:
No acute intracranial process.
 
CTA HEAD:
The vessels of the circle of ___ and their principal
intracranial branches appear normal without occlusion or 
aneurysm
formation. The dural venous sinuses are patent.
 
CTA NECK:
The carotid and vertebral arteries appear normal with no 
evidence
of stenosis or occlusion.

Discharge Labs:
===============
___ 07:50AM BLOOD WBC-4.9 RBC-3.62* Hgb-10.6* Hct-33.0* 
MCV-91 MCH-29.3 MCHC-32.1 RDW-12.6 RDWSD-42.2 Plt ___
___ 07:50AM BLOOD Glucose-79 UreaN-7 Creat-0.6 Na-144 K-4.0 
Cl-107 HCO3-25 AnGap-12
___ 07:50AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.___ with PMHx of meningioma (dx ___ who presented with 
lightheadedness, dizziness, lower extremity weakness, and 
inability to ambulate.

# Dizziness, lightheadedness: presented with extreme dizziness 
and lightheadedness, especially when moving from a recumbent to 
a seated position.  She was unable to ambulate even with 
assistance. She was evaluated by neurology in the emergency
room with normal strength exam of her lower extremities. While 
her symptoms were present with position changes, her 
orthostatics were negative. CT and CTA head and neck were 
negative for any acute intracranial abnormalities. Her symptoms 
quickly improved without intervention apart from IV fluids. Some 
of her fatigue and subjective weakness was thought to be 
secondary to minimal PO intake over the few days prior to 
hospitalization in the setting of nausea and vomiting.  The 
patient, herself, felt that this was a reaction to 
ciprofloxacin, which had been prescribed for a possible UTI and 
which she had started taking shortly prior to the onset of these 
symptoms.  The Neurology team re-evaluated her after admission, 
and found that her deficits (imbalance, gait instability, and 
leg weakness) were all inconsistent and distractible, and thus 
she seemed to have a functional component to her neurologic 
deficits.  They also noted that her relative level of function 
had improved significantly since initial presentation, and they 
advised against any additional neurologic work-up at this time.  
She was evaluated serially by the Physical Therapy team, who 
noted rapid improvement in her gait stability and overall 
mobility, though she continued to require a rolling walker for 
gait stability (so one was prescribed and provided to her on 
discharge).  She was cleared for discharge home and given a 
prescription for physical therapy.  We reached out to the 
patient's PCP, ___, to notify her of our concerns that 
the patient presented with a new functional gait disorder of 
unclear trigger. THe patient notably appeared to have a 
depressed mood, with psychomotor slowing (worse at time of 
admission, gradually improving to the time of discharge), but 
denied any clear triggers/sources of anxiety/depression/etc.  
She did note that her son (age ___ and only close family) was 
supposed to move away to ___ for college the week following 
her presentation to the hospital, but that she asked him to stay 
at home for this upcoming year, and as a result he will be going 
to a local ___ college.  It was not clear if, or to what 
degree, this might have played a role in her acute onset 
functional gait disorder.  She may benefit from additional 
testing and treatment for possible depression, anxiety, and 
other psychiatric illnesses that are often comorbid with 
functional neurologic disorders.

# Question of adverse reaction to ciprofloxacin: it is not clear 
that this was an adverse reaction to ciprofloxacin, given the 
other things going on at the time, but it can be said that her 
symptoms resolved rapidly with IVF and discontinuing 
ciprofloxacin.  Although we have not specifically labeled her as 
having a ciprofloxacin allergy, we suspect she is unlikely to be 
willing to take it again in the future, as she felt certain that 
ciprofloxacin was the cause of her presenting symptoms.

# Headache: treated with Tylenol PRN.

# Recent UTI: patient had stopped ciprofloxacin a day or so 
prior to admission.  Admission UA was negative for 
inflammation/infection and UCx was no growth. She had no 
recurrent symptoms of UTI prior to discharge.

# Hypercalcemia: presented with calcium level of 10.7, with 
nonspecific symptoms.  Of note, calcium in Atrius records was 
10.7 in ___. Given chronicity, this was felt to be 
unlikely to be the cause of her symptoms. Held home calcium and 
vitamin D and given IVF initially. Calcium level improved to 8.8 
on recheck.  Home calcium and vitamin D were resumed on 
discharge.

CHRONIC/STABLE PROBLEMS:
# Hypertension: held home HCTZ 25 mg daily in the setting of 
lightheadedness. Resumed on discharge.

Transitional Issues:
====================
*The patient was still requiring rolling walker for gait 
stability at the time of discharge.
*Provided Rx for physical therapy.
*Scheduled for f/u appt with PCP ___ ___ at 11:40 AM
*Provided return to work letter for her to return to work 
without restriction as early as ___.
.
.
====================
Time in care: 45 minutes in patient counseling, care 
coordination and other discharge-related activities on the day 
of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ciprofloxacin HCl 500 mg PO Q12H 
2. Potassium Chloride 10 mEq PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Calcium 600-D3 Plus (Ca-D3-mag ___ 600 mg 
calcium- 800 unit-50 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
Do not take more than 4000 mg of acetaminophen in any 24 hour 
period.  
2.  Calcium 600-D3 Plus (Ca-D3-mag ___ 600 mg 
calcium- 800 unit-50 mg oral DAILY  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  
5.Outpatient Physical Therapy
Please evaluate and treat as indicated for functional neurologic 
deficits of intermittent b/l leg weakness and intermittent 
lightheadedness and dizziness.
ICD 10 Dx: F44.4
6.Rolling Walker
Dx: Functional neurologic disorder with motor deficit. 
ICD 10: F44.4
Prognosis: good
Length of need: 13 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Lightheadedness, Dizziness, and b/l Leg Weakness
-likely due to combination of hypovolemia in setting of recent 
infection and poor PO intake as well as a functional neurologic 
disorder of unclear etiology/precipitant
Hypercalcemia due to hypovolemia: resolved

Secondary:
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(rolling walker).
 
Discharge Instructions:
Dear Ms. ___,

You came in because you were feeling weak and lightheaded. You 
had a CT scan of your head which was normal. We gave you some 
fluids through the IV and your symptoms improved.

You worked with the physical therapy doctors and your ability to 
walk improved rapidly. You are being discharged with a rolling 
walker. We feel you would benefit from further outpatient 
physical therapy for your functional neurologic disorder 
(lightheadedness, dizziness, and leg weakness).

You can take Tylenol (acetaminophen) as needed for headache, but 
be sure that you do NOT take more than 4000 mg of acetaminophen 
in any 1 day.

You can resume your hydrochlorothiazide (for blood pressure) 
tomorrow morning.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___